US05239083
4-{2-[3-(1-propylindole-5yl)isocrotonoyl amino]phenoxy}butyric acid (Compound 4)
177 mg of compound 4 was obtained in a similar manner to those described in the Example 1 and 2 using 481 mg of ethyl 4-(2-aminophenoxy)butyrate and 262 mg of 3-(1-propylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 481 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-propylindol-5-yl)isocrotonic acid | 262 mg | C(CC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C15H17NO2
product | 4-{2-[3-(1-propylindole-5yl)isocrotonoyl amino]phenoxy}butyric acid | C(CC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C25H28N2O4
